US09145354B2
To (6-Chloro-2-fluoro-3-{(R)-1-[(3-trityl-3H-imidazol-4-ylmethyl)-amino]-propyl}-phenyl)-pyridin-3-yl-methanone (0.208 g, 0.33 mmol) suspended in acetone (2 ml) treated with saturated HCl/EtOAc, ethanol added till all in solution stirred at ambient for 18 hours, concentrated then purified by Prep HPLC to give [(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl](1H-imidazol-5-ylmethyl)amine (0.07 g), MS: [M+H] 373

reactant | (6-Chloro-2-fluoro-3-{(R)-1-[(3-trityl-3H-imidazol-4-ylmethyl)-amino]-propyl}-phenyl)-pyridin-3-yl-methanone | 0.33 mmol, 0.208 g | ClC1=CC=C(C(=C1C(=O)C=1C=NC=CC1)F)[C@@H](CC)NCC=1N(C=NC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H32ClFN4O
reactant | HCl EtOAc | Cl.CCOC(=O)C
reactant | ethanol | C(C)O | C2H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | [(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl](1H-imidazol-5-ylmethyl)amine | 0.07 g | ClC1=C(C(=C(C=C1)[C@@H](CC)NCC1=CN=CN1)F)C(=O)C=1C=NC=CC1 | C19H18ClFN4O
